US07157468B2
6-Benzyl-5,6,7,8-tetrahydro-1H-[1,6]naphthyridin-2-one
Bromine (750 μl, 14.6 mmol) in glacial acetic acid (5 ml) was added dropwise over 5 minutes to (6-benzyl-3,4,5,6,7,8-hexahydro-1H-[1,6]naphthyridin-2-one (3.37 g, 13.9 mmol) (reference WO9830560) dissolved in glacial acetic acid (50 ml) at 100° C. The mixture was heated at 100° C. for 2.5 hours and then was cooled to room temperature. The solvent was evaporated under reduced pressure and the residue was basified with 10% sodium carbonate solution (50 ml). The aqueous mixture was extracted with chloroform (4×50 ml) and the combined organic solutions were dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel using methanol in dichloromethane (gradient from 0:100 to 3:97) to give the title compound as yellow crystals (1.5 g).

reactant | Bromine | 14.6 mmol, 750 μl | BrBr | Br2
reactant | 6-benzyl-3,4,5,6,7,8-hexahydro-1H-[1,6]naphthyridin-2-one | 13.9 mmol, 3.37 g | C(C1=CC=CC=C1)N1CC=2CCC(NC2CC1)=O | C15H18N2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-Benzyl-5,6,7,8-tetrahydro-1H-[1,6]naphthyridin-2-one | 1.5 g | C(C1=CC=CC=C1)N1CC=2C=CC(NC2CC1)=O | C15H16N2O
